US06399805B2
Lithium (2,4,6-trimethylbenzoyl)phenylphosphine
Under argon and with the exclusion of moisture, 14.0 g of lithium (2.0 mol) are introduced into 250 ml of tetrahydrofuran at room temperature. Following the addition of 1.25 g of naphthalene, 44.8 g (0.25 mol) of dichlorophenylphosphine are added dropwise with stirring at 20-25° C. and, after stirring for 4 h, the black solution is filtered into a three-necked round flask through a frit (G2 porosity) with the exclusion of moisture and under argon as a protective gas. 47.2 g (0.258 mol) of 2,4,6-trimethylbenzoyl chloride are added dropwise at room temperature over the course of 30 minutes with stirring and cooling. Stirring for 2 hours gives the title compound as a red solution in tetrahydrofuran.

reactant | lithium | 2.0 mol, 14.0 g | [Li] | Li
reactant | naphthalene | 1.25 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | dichlorophenylphosphine | 0.25 mol, 44.8 g | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | 2,4,6-trimethylbenzoyl chloride | 0.258 mol, 47.2 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Lithium (2,4,6-trimethylbenzoyl)phenylphosphine | CC1=C(C(=O)PC2=CC=CC=C2)C(=CC(=C1)C)C.[Li] | InChI=1S/C16H17OP.Li/c1-11-9-12(2)15(13(3)10-11)16(17)18-14-7-5-4-6-8-14;/h4-10,18H,1-3H3;
